US06251905B1
ii) Synthesis of 1,2-dihydro-1-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-1,4,7b-triazacyclopent[cd]inden-2-one
A mixture containing 5.68 g (20.0 mM) of (1-tert-butoxycarbonylpiperidin-4-ylmethyl) methanesulfonate, 4.35 g (20.0 mM) of 1,2-dihydro-1,4,7b-triazacyclopent[cd]inden-2-one.2NaCl, and 3.58 ml (24.0 mM) of DBU in 50 ml of DMF was heated at 80° C. for 2 hours. After completion of the reaction, the reaction mixture was poured in 50 ml of iced water and extracted with 100 ml of ethyl acetate. The organic layer was washed with 50 ml of purified water twice and, then, with 50 ml of saturated aqueous NaCl solution and dried over Na2SO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=10:1) to provide 3.00 g (yield 42.1%) of the title compound as a brown amorphous substance.

reactant | (1-tert-butoxycarbonylpiperidin-4-ylmethyl) methanesulfonate | 20.0 mM, 5.68 g | CS(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
reactant | 1,2-dihydro-1,4,7b-triazacyclopent[cd]inden-2-one | 20.0 mM, 4.35 g | N1C(C=2N3C(C=CC=C13)=NC2)=O | C8H5N3O
reactant | DBU | 24.0 mM, 3.58 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1,2-dihydro-1-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-1,4,7b-triazacyclopent[cd]inden-2-one | 3.00 g, yield 42.1% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C=2N3C(C=CC=C13)=NC2)=O | C19H24N4O3
